US05939451
0.39 g (0.0022 mol) of (4,6-dichloro-pyrimidin-2-yl)methyl-amine and 1.1 g (0.0044 mol) of 4-tert-butyl-benzenesulfonamide potassium salt were stirred in 10 ml of 1-methyl-2-pyrrolidone at 150° C. for 8 hours. Then, the solvent was distilled off in a high vacuum, the residue was partitioned in ethyl acetate/water and extracted. The aqueous phase was saturated with sodium chloride, de-gassed in a vacuum and made acid with 4N HCl, with a precipitate separating. The mixture was suction filtered, the extract and the solid were combined and chromatographed over silica gel with cyclohexane/ethyl acetate 2:1 as the eluent. The product was recrystallized from ethyl acetate/n-hexane. There was obtained 0.57 g (73%) of 4-tert-butyl-N-(6-chloro-2-methylamino-pyrimidin-4-yl)-benzenesulfonamide as white crystals; m.p.: 118-137° C. (dec.).

reactant | (4,6-dichloro-pyrimidin-2-yl)methyl-amine | 0.0022 mol, 0.39 g | ClC1=NC(=NC(=C1)Cl)CN | C5H5Cl2N3
reactant | 4-tert-butyl-benzenesulfonamide potassium salt | 0.0044 mol, 1.1 g | [K+].C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)[NH-]
reactant | 1-methyl-2-pyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 4-tert-butyl-N-(6-chloro-2-methylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.57 g, 73% | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)Cl)NC | C15H19ClN4O2S
